US04175203
Step A(1): Preparation of [4-(2-Bromoethyl)phenyl]acetonitrile
A mixture of p-cyanomethylhydrocinnamic acid (18.9 g., 0.1 mole), red mercuric oxide (17.2 g., 0.08 mole), and carbon tetrachloride (180 ml.) is stirred at room temperature while bromine (16.0 g., 0.1 mole) is added dropwise during 40 minutes. The resulting mixture is heated at reflux for 1 hour. The mixture is then cooled, filtered, washed with dilute hydrochloric acid and water, and dried over magnesium sulfate. The solution is evaporated to leave the product as a yellow residual oil. It is purified by column chromatography on silica gel with benzene elution.

reactant | p-cyanomethylhydrocinnamic acid | 0.1 mole, 18.9 g | C(#N)CC1=CC=C(CCC(=O)O)C=C1 | C11H11NO2
reactant | bromine | 0.1 mole, 16.0 g | BrBr | Br2
solvent | carbon tetrachloride | 180 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | [4-(2-Bromoethyl)phenyl]acetonitrile | BrCCC1=CC=C(C=C1)CC#N | C10H10BrN
